US09359362B2
Ethyl (rac)-7-(4-cyanophenyl)-5-methyl-4,7-dihydrotetrazolo[1,5-a]pyrimidine-6-carboxylate
Under an atmosphere of argon, 5-amino-1,2,3,4-tetrazole hydrate (1.0 g, 9.7 mmol) and ethyl 2-(4-cyanobenzylidene)-3-oxobutanoate (2.6 g, 10.7 mmol, 1.1 eq.) were dissolved in DMF (50 ml), and solid sodium bicarbonate (4.1 g, 48.5 mmol, 5 eq.) was added. The mixture was stirred at 55° C. for 12 h. The mixture was then filtered and the DMF from the filtrate was distilled off under reduced pressure. The residue was suspended in ethanol and stirred overnight. The product was filtered off and dried under high vacuum. This gave 950 mg (32% of theory) of the title compound.

reactant | 5-amino-1,2,3,4-tetrazole hydrate | 9.7 mmol, 1.0 g | O.NC1=NN=NN1
reactant | ethyl 2-(4-cyanobenzylidene)-3-oxobutanoate | 10.7 mmol, 2.6 g, 1.1 eq. | C(#N)C1=CC=C(C=C(C(=O)OCC)C(C)=O)C=C1 | C14H13NO3
reactant | sodium bicarbonate | 48.5 mmol, 4.1 g, 5 eq. | C([O-])(O)=O.[Na+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | Ethyl (rac)-7-(4-cyanophenyl)-5-methyl-4,7-dihydrotetrazolo[1,5-a]pyrimidine-6-carboxylate | C(#N)C1=CC=C(C=C1)C1C(=C(NC=2N1N=NN2)C)C(=O)OCC | C15H14N6O2
